US07119205B2
2-t-butoxycarbonylamino-4-styryl-thiophene-3-carboxylic acid ethyl ester
Benzyltriphenylphosphonium bromide (1.30 g, 3.01 mmol) was suspended in anhydrous THF (6 mL) and cooled to 0° C. This was treated with n-butyllithium (1.20 mL, 3.01 mmol, 2.5M in hexanes) by slow addition. It was then stirred at 0° C. for 1.5 hr. Next it was treated with a solution of 2-t-butoxycarbonylamino-4-formyl-thiophene-3-carboxylic acid ethyl ester (0.300 g, 1.00 mmol) dissolved in anhydrous THF (6 mL) by slow addition. The reaction was allowed to stir at room temperature for 1 hr. It was then quenched with sat. NH4Cl (12 mL). This was extracted with CH2Cl2 (3×25 mL). The combined extracts were washed with H2O (1×25 mL) and brine (1×25 mL). The extracts were dried (Na2SO4), filtered, and the solvent removed in vacuo. The crude product was purified by flash chromatography (SiO2, 1 EtOAc/3 hexanes) to afford the title compound (0.3432 g, 92%). MS m/e (CI) 374.1 (M+H)+; 1H NMR (300 MHz, CDCl3): δ ppm 1.26 (m, 1H), 1.36 (t, 1H), 1.44 (m, 1H), 1.54 (s, 9H), 4.35 (m, 1H), 6.34 (s, 1H), 6.59 (m, 1H), 6.93 (d, 1H), 6.89 (s, 1H), 7.17 (s, 1H), 7.35 (t, 1H), 7.47 (d, 1H), 7.59 (d, 1H), 10.40 (s, 1H).

reactant | Benzyltriphenylphosphonium bromide | 3.01 mmol, 1.30 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 3.01 mmol, 2.5M, 1.20 mL | C(CCC)[Li]
reactant | 2-t-butoxycarbonylamino-4-formyl-thiophene-3-carboxylic acid ethyl ester | 1.00 mmol, 0.300 g | C(C)OC(=O)C1=C(SC=C1C=O)NC(=O)OC(C)(C)C | C13H17NO5S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-t-butoxycarbonylamino-4-styryl-thiophene-3-carboxylic acid ethyl ester | 0.3432 g, 92% | C(C)OC(=O)C1=C(SC=C1C=CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C20H23NO4S
